*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0604HQ-1N1
* Inductance = 1.15nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-17.6GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0604HQ-1N1_freq port1 port2 PARAMS: Cpar=0.079pF Ind=1.15nH
X1 port1 port2 Model2A PARAMS:
+ R1=2
+ R2=0.02
+ C= {Cpar}
+ K1=0.00000381
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=5841.58171
.ends 0604HQ-1N1_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0604HQ-2N6
* Inductance = 2.6nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-13.9GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0604HQ-2N6_freq port1 port2 PARAMS: Cpar=0.056pF Ind=2.6nH
X1 port1 port2 Model2A PARAMS:
+ R1=2
+ R2=0.02
+ C= {Cpar}
+ K1=0.00000581
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=17407.6866
.ends 0604HQ-2N6_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0604HQ-4N5
* Inductance = 4.5nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-8.9GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0604HQ-4N5_freq port1 port2 PARAMS: Cpar=0.08pF Ind=4.5nH
X1 port1 port2 Model2A PARAMS:
+ R1=3
+ R2=0.03
+ C= {Cpar}
+ K1=0.00000771
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=15178.8407
.ends 0604HQ-4N5_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0604HQ-5N0
* Inductance = 5nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-9.9GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0604HQ-5N0_freq port1 port2 PARAMS: Cpar=0.058pF Ind=5nH
X1 port1 port2 Model2A PARAMS:
+ R1=5
+ R2=0.03
+ C= {Cpar}
+ K1=0.0000088
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=14736.6036
.ends 0604HQ-5N0_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0604HQ-6N8
* Inductance = 6.8nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-7GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0604HQ-6N8_freq port1 port2 PARAMS: Cpar=0.086pF Ind=6.8nH
X1 port1 port2 Model2A PARAMS:
+ R1=5
+ R2=0.03
+ C= {Cpar}
+ K1=0.0000125
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=13149.6559
.ends 0604HQ-6N8_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0604HQ-7N6
* Inductance = 7.6nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-6.7GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0604HQ-7N6_freq port1 port2 PARAMS: Cpar=0.082pF Ind=7.6nH
X1 port1 port2 Model2A PARAMS:
+ R1=7
+ R2=0.03
+ C= {Cpar}
+ K1=0.0000135
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=11476.7457
.ends 0604HQ-7N6_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0604HQ-10N
* Inductance = 10.4nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-6GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0604HQ-10N_freq port1 port2 PARAMS: Cpar=0.084pF Ind=10.4nH
X1 port1 port2 Model2A PARAMS:
+ R1=9
+ R2=0.03
+ C= {Cpar}
+ K1=0.0000175
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=12042.9009
.ends 0604HQ-10N_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft RF Inductor Model
*======================================================================
* Model Parameters:
*   Valid Frequency Range Varies by Inductor
*   Ambient Temperature = 25 degC
*   DC Bias Current = 0 A
*   Frequency Dependent Inductor Model
*======================================================================
.subckt Model2A Lin Lout PARAMS:
+ R1=1
+ R2=1
+ C=1
+ K1=1
+ K3=1
R2 N001 Lin {R2}
R1 Lout N002 {R1}
C1 N002 N001 {C}
G_Rvar1 N001 N003 LAPLACE { V(N001, N003) } {1/K1/(-S*S/4/PI^2)^0.25}
L1 N003 Lout = {K3}
.ends Model2A








.subckt Coilcraft_Inductor Lin Lout
R1 Lout Lin 100Meg
.ends Coilcraft_Inductor
